US04302588
5.5 g of 1-methyl-5-hydroxy-8-benzyloxy-3,4-dihydrocarbostyril was added to 15 g of epichlorohydrin, and 12 drops of piperidine were then added thereto followed by stirring at 90° to 100° C. for 3 hours. The unreacted epichlorohydrin and piperidine were evaporated under reduced pressure, and the residue was dissolved in chloroform, washed successively with a 5% aqueous solution of sodium hydroxide and water and dried over anhydrous potassium carbonate. The chloroform was evaporated under reduced pressure, and the residue was purified by silica gel chromatography and then recrystallized from ethanol to afford 3.5 g of 1-methyl-5-(2,3-epoxypropoxy)-8-benzyloxy-3,4-dihydrocarbostyril as yellow needle-like crystals having a melting point of 111°-112.5° C.

reactant | 1-methyl-5-hydroxy-8-benzyloxy-3,4-dihydrocarbostyril | 5.5 g | CN1C(=O)CCC2=C(C=CC(=C12)OCC1=CC=CC=C1)O | C17H17NO3
reactant | epichlorohydrin | 15 g | C(Cl)C1CO1 | C3H5ClO
catalyst | piperidine | 12 drops | N1CCCCC1 | C5H11N
product | 1-methyl-5-(2,3-epoxypropoxy)-8-benzyloxy-3,4-dihydrocarbostyril | 3.5 g | CN1C(=O)CCC2=C(C=CC(=C12)OCC1=CC=CC=C1)OCC1CO1 | C20H21NO4
